US06376499B1
Step B: 5-Cyanoindazole
5-Cyano-2-fluorobenzaldehyde (512 mg, 3.43 mmol) was dissolved in hydrazine hydrate (25 mL) at room temperature and the solution left to stand overnight. To this reaction mixture was added methylene chloride (30 mL). The mixture was purified by filtration through a pad of silica eluting with methylene chloride, concentrated in vacuo to afford a white solid:

reactant | 5-Cyano-2-fluorobenzaldehyde | 3.43 mmol, 512 mg | C(#N)C=1C=CC(=C(C=O)C1)F | C8H4FNO
reactant | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
reactant | hydrazine hydrate | 25 mL | O.NN
product | 5-Cyanoindazole | C(#N)C=1C=C2C=NNC2=CC1 | C8H5N3
